*-------------------------------------------------------------
* TB for DFF_2phase behavioral model
* 1 MHz 2-phase clocks with 10 ns non-overlap (T=1 µs)
* PHI_1 high: 0 .. 490 ns ; PHI_2 high: 510 .. 1000 ns
*-------------------------------------------------------------
.include dff_2phase_behave.spice  

* DUT pins
xdut D Q PHI_1 PHI_2 DFF_2phase

* Clocks (PULSE with non-overlap)
vphi1 PHI_1 0 PULSE(0 1.8 0      1n 1n 490n 1u)
vphi2 PHI_2 0 PULSE(0 1.8 510n   1n 1n 490n 1u)

* Data stimulus (toggles every 0.75 us, misaligned to show behavior)
vD D 0 PULSE(0 1.8 0 1n 1n 375n 750n)

* Save / run
.control
  set filetype=ascii
  tran 1n 4u
  plot v(D) v(PHI_1)+2 v(PHI_2)+4 v(Q)+6
  write tb_dff_2phase_behave.raw
.endc
.end
