* NGSPICE file created from PHI_CLK_buf.ext - technology: gf180mcuD

.subckt gf180mcu_fd_sc_mcu9t5v0__inv_20 I VDD VSS ZN VNW VPW
X0 ZN I VDD VNW pfet_05v0 ad=0.5673p pd=2.45u as=0.5673p ps=2.45u w=1.83u l=0.5u
X1 VDD I ZN VNW pfet_05v0 ad=0.5673p pd=2.45u as=0.5673p ps=2.45u w=1.83u l=0.5u
X2 VSS I ZN VPW nfet_05v0 ad=0.3432p pd=1.84u as=0.3432p ps=1.84u w=1.32u l=0.6u
X3 ZN I VDD VNW pfet_05v0 ad=0.5673p pd=2.45u as=0.5673p ps=2.45u w=1.83u l=0.5u
X4 VSS I ZN VPW nfet_05v0 ad=0.3432p pd=1.84u as=0.3432p ps=1.84u w=1.32u l=0.6u
X5 VDD I ZN VNW pfet_05v0 ad=0.5673p pd=2.45u as=0.5673p ps=2.45u w=1.83u l=0.5u
X6 ZN I VDD VNW pfet_05v0 ad=0.5673p pd=2.45u as=0.5673p ps=2.45u w=1.83u l=0.5u
X7 VSS I ZN VPW nfet_05v0 ad=0.3432p pd=1.84u as=0.3432p ps=1.84u w=1.32u l=0.6u
X8 ZN I VSS VPW nfet_05v0 ad=0.3432p pd=1.84u as=0.3432p ps=1.84u w=1.32u l=0.6u
X9 ZN I VSS VPW nfet_05v0 ad=0.3432p pd=1.84u as=0.3432p ps=1.84u w=1.32u l=0.6u
X10 VDD I ZN VNW pfet_05v0 ad=0.5673p pd=2.45u as=0.5673p ps=2.45u w=1.83u l=0.5u
X11 VDD I ZN VNW pfet_05v0 ad=0.8052p pd=4.54u as=0.5673p ps=2.45u w=1.83u l=0.5u
X12 ZN I VSS VPW nfet_05v0 ad=0.3432p pd=1.84u as=0.3432p ps=1.84u w=1.32u l=0.6u
X13 ZN I VDD VNW pfet_05v0 ad=0.5673p pd=2.45u as=0.5673p ps=2.45u w=1.83u l=0.5u
X14 ZN I VSS VPW nfet_05v0 ad=0.3432p pd=1.84u as=0.3432p ps=1.84u w=1.32u l=0.6u
X15 VSS I ZN VPW nfet_05v0 ad=0.3432p pd=1.84u as=0.3432p ps=1.84u w=1.32u l=0.6u
X16 VSS I ZN VPW nfet_05v0 ad=0.3432p pd=1.84u as=0.3432p ps=1.84u w=1.32u l=0.6u
X17 VDD I ZN VNW pfet_05v0 ad=0.5673p pd=2.45u as=0.5673p ps=2.45u w=1.83u l=0.5u
X18 VDD I ZN VNW pfet_05v0 ad=0.5673p pd=2.45u as=0.5673p ps=2.45u w=1.83u l=0.5u
X19 VDD I ZN VNW pfet_05v0 ad=0.5673p pd=2.45u as=0.5673p ps=2.45u w=1.83u l=0.5u
X20 ZN I VSS VPW nfet_05v0 ad=0.3432p pd=1.84u as=0.5808p ps=3.52u w=1.32u l=0.6u
X21 ZN I VDD VNW pfet_05v0 ad=0.5673p pd=2.45u as=0.5673p ps=2.45u w=1.83u l=0.5u
X22 ZN I VSS VPW nfet_05v0 ad=0.3432p pd=1.84u as=0.3432p ps=1.84u w=1.32u l=0.6u
X23 VSS I ZN VPW nfet_05v0 ad=0.3432p pd=1.84u as=0.3432p ps=1.84u w=1.32u l=0.6u
X24 ZN I VDD VNW pfet_05v0 ad=0.5673p pd=2.45u as=0.5673p ps=2.45u w=1.83u l=0.5u
X25 VSS I ZN VPW nfet_05v0 ad=0.3432p pd=1.84u as=0.3432p ps=1.84u w=1.32u l=0.6u
X26 VDD I ZN VNW pfet_05v0 ad=0.5673p pd=2.45u as=0.5673p ps=2.45u w=1.83u l=0.5u
X27 ZN I VSS VPW nfet_05v0 ad=0.3432p pd=1.84u as=0.3432p ps=1.84u w=1.32u l=0.6u
X28 ZN I VSS VPW nfet_05v0 ad=0.3432p pd=1.84u as=0.3432p ps=1.84u w=1.32u l=0.6u
X29 VSS I ZN VPW nfet_05v0 ad=0.5808p pd=3.52u as=0.3432p ps=1.84u w=1.32u l=0.6u
X30 VDD I ZN VNW pfet_05v0 ad=0.5673p pd=2.45u as=0.5673p ps=2.45u w=1.83u l=0.5u
X31 ZN I VSS VPW nfet_05v0 ad=0.3432p pd=1.84u as=0.3432p ps=1.84u w=1.32u l=0.6u
X32 ZN I VDD VNW pfet_05v0 ad=0.5673p pd=2.45u as=0.5673p ps=2.45u w=1.83u l=0.5u
X33 ZN I VDD VNW pfet_05v0 ad=0.5673p pd=2.45u as=0.5673p ps=2.45u w=1.83u l=0.5u
X34 ZN I VSS VPW nfet_05v0 ad=0.3432p pd=1.84u as=0.3432p ps=1.84u w=1.32u l=0.6u
X35 ZN I VDD VNW pfet_05v0 ad=0.5673p pd=2.45u as=0.8052p ps=4.54u w=1.83u l=0.5u
X36 VDD I ZN VNW pfet_05v0 ad=0.5673p pd=2.45u as=0.5673p ps=2.45u w=1.83u l=0.5u
X37 VSS I ZN VPW nfet_05v0 ad=0.3432p pd=1.84u as=0.3432p ps=1.84u w=1.32u l=0.6u
X38 ZN I VDD VNW pfet_05v0 ad=0.5673p pd=2.45u as=0.5673p ps=2.45u w=1.83u l=0.5u
X39 VSS I ZN VPW nfet_05v0 ad=0.3432p pd=1.84u as=0.3432p ps=1.84u w=1.32u l=0.6u
.ends

.subckt gf180mcu_fd_sc_mcu9t5v0__inv_8 I VDD VSS ZN VNW VPW
X0 ZN I VDD VNW pfet_05v0 ad=0.5673p pd=2.45u as=0.5673p ps=2.45u w=1.83u l=0.5u
X1 VSS I ZN VPW nfet_05v0 ad=0.3432p pd=1.84u as=0.3432p ps=1.84u w=1.32u l=0.6u
X2 VDD I ZN VNW pfet_05v0 ad=0.5673p pd=2.45u as=0.5673p ps=2.45u w=1.83u l=0.5u
X3 VSS I ZN VPW nfet_05v0 ad=0.3432p pd=1.84u as=0.3432p ps=1.84u w=1.32u l=0.6u
X4 ZN I VSS VPW nfet_05v0 ad=0.3432p pd=1.84u as=0.3432p ps=1.84u w=1.32u l=0.6u
X5 VDD I ZN VNW pfet_05v0 ad=0.8052p pd=4.54u as=0.5673p ps=2.45u w=1.83u l=0.5u
X6 ZN I VSS VPW nfet_05v0 ad=0.3432p pd=1.84u as=0.3432p ps=1.84u w=1.32u l=0.6u
X7 VDD I ZN VNW pfet_05v0 ad=0.5673p pd=2.45u as=0.5673p ps=2.45u w=1.83u l=0.5u
X8 ZN I VSS VPW nfet_05v0 ad=0.3432p pd=1.84u as=0.5808p ps=3.52u w=1.32u l=0.6u
X9 ZN I VDD VNW pfet_05v0 ad=0.5673p pd=2.45u as=0.5673p ps=2.45u w=1.83u l=0.5u
X10 VDD I ZN VNW pfet_05v0 ad=0.5673p pd=2.45u as=0.5673p ps=2.45u w=1.83u l=0.5u
X11 ZN I VSS VPW nfet_05v0 ad=0.3432p pd=1.84u as=0.3432p ps=1.84u w=1.32u l=0.6u
X12 ZN I VDD VNW pfet_05v0 ad=0.5673p pd=2.45u as=0.5673p ps=2.45u w=1.83u l=0.5u
X13 ZN I VDD VNW pfet_05v0 ad=0.5673p pd=2.45u as=0.8052p ps=4.54u w=1.83u l=0.5u
X14 VSS I ZN VPW nfet_05v0 ad=0.5808p pd=3.52u as=0.3432p ps=1.84u w=1.32u l=0.6u
X15 VSS I ZN VPW nfet_05v0 ad=0.3432p pd=1.84u as=0.3432p ps=1.84u w=1.32u l=0.6u
.ends

.subckt gf180mcu_fd_sc_mcu9t5v0__inv_12 I VDD VSS ZN VNW VPW
X0 ZN I VDD VNW pfet_05v0 ad=0.5673p pd=2.45u as=0.5673p ps=2.45u w=1.83u l=0.5u
X1 VSS I ZN VPW nfet_05v0 ad=0.3432p pd=1.84u as=0.3432p ps=1.84u w=1.32u l=0.6u
X2 ZN I VDD VNW pfet_05v0 ad=0.5673p pd=2.45u as=0.5673p ps=2.45u w=1.83u l=0.5u
X3 VSS I ZN VPW nfet_05v0 ad=0.3432p pd=1.84u as=0.3432p ps=1.84u w=1.32u l=0.6u
X4 VDD I ZN VNW pfet_05v0 ad=0.5673p pd=2.45u as=0.5673p ps=2.45u w=1.83u l=0.5u
X5 ZN I VDD VNW pfet_05v0 ad=0.5673p pd=2.45u as=0.5673p ps=2.45u w=1.83u l=0.5u
X6 VSS I ZN VPW nfet_05v0 ad=0.3432p pd=1.84u as=0.3432p ps=1.84u w=1.32u l=0.6u
X7 ZN I VSS VPW nfet_05v0 ad=0.3432p pd=1.84u as=0.3432p ps=1.84u w=1.32u l=0.6u
X8 VDD I ZN VNW pfet_05v0 ad=0.5673p pd=2.45u as=0.5673p ps=2.45u w=1.83u l=0.5u
X9 ZN I VSS VPW nfet_05v0 ad=0.3432p pd=1.84u as=0.3432p ps=1.84u w=1.32u l=0.6u
X10 VSS I ZN VPW nfet_05v0 ad=0.5808p pd=3.52u as=0.3432p ps=1.84u w=1.32u l=0.6u
X11 VDD I ZN VNW pfet_05v0 ad=0.5673p pd=2.45u as=0.5673p ps=2.45u w=1.83u l=0.5u
X12 VDD I ZN VNW pfet_05v0 ad=0.5673p pd=2.45u as=0.5673p ps=2.45u w=1.83u l=0.5u
X13 ZN I VSS VPW nfet_05v0 ad=0.3432p pd=1.84u as=0.5808p ps=3.52u w=1.32u l=0.6u
X14 ZN I VSS VPW nfet_05v0 ad=0.3432p pd=1.84u as=0.3432p ps=1.84u w=1.32u l=0.6u
X15 ZN I VDD VNW pfet_05v0 ad=0.5673p pd=2.45u as=0.5673p ps=2.45u w=1.83u l=0.5u
X16 VDD I ZN VNW pfet_05v0 ad=0.5673p pd=2.45u as=0.5673p ps=2.45u w=1.83u l=0.5u
X17 ZN I VSS VPW nfet_05v0 ad=0.3432p pd=1.84u as=0.3432p ps=1.84u w=1.32u l=0.6u
X18 VDD I ZN VNW pfet_05v0 ad=0.8052p pd=4.54u as=0.5673p ps=2.45u w=1.83u l=0.5u
X19 ZN I VSS VPW nfet_05v0 ad=0.3432p pd=1.84u as=0.3432p ps=1.84u w=1.32u l=0.6u
X20 ZN I VDD VNW pfet_05v0 ad=0.5673p pd=2.45u as=0.5673p ps=2.45u w=1.83u l=0.5u
X21 ZN I VDD VNW pfet_05v0 ad=0.5673p pd=2.45u as=0.8052p ps=4.54u w=1.83u l=0.5u
X22 VSS I ZN VPW nfet_05v0 ad=0.3432p pd=1.84u as=0.3432p ps=1.84u w=1.32u l=0.6u
X23 VSS I ZN VPW nfet_05v0 ad=0.3432p pd=1.84u as=0.3432p ps=1.84u w=1.32u l=0.6u
.ends

.subckt PHI_CLK_buf VDDd VSSd CLK_in CLK_buf
Xgf180mcu_fd_sc_mcu9t5v0__inv_20_0 gf180mcu_fd_sc_mcu9t5v0__inv_20_1/I VDDd VSSd CLK_buf
+ VDDd VSSd gf180mcu_fd_sc_mcu9t5v0__inv_20
Xgf180mcu_fd_sc_mcu9t5v0__inv_20_1 gf180mcu_fd_sc_mcu9t5v0__inv_20_1/I VDDd VSSd CLK_buf
+ VDDd VSSd gf180mcu_fd_sc_mcu9t5v0__inv_20
Xgf180mcu_fd_sc_mcu9t5v0__inv_20_2 gf180mcu_fd_sc_mcu9t5v0__inv_20_2/I VDDd VSSd gf180mcu_fd_sc_mcu9t5v0__inv_20_1/I
+ VDDd VSSd gf180mcu_fd_sc_mcu9t5v0__inv_20
Xgf180mcu_fd_sc_mcu9t5v0__inv_8_0 CLK_in VDDd VSSd gf180mcu_fd_sc_mcu9t5v0__inv_8_0/ZN
+ VDDd VSSd gf180mcu_fd_sc_mcu9t5v0__inv_8
Xgf180mcu_fd_sc_mcu9t5v0__inv_12_0 gf180mcu_fd_sc_mcu9t5v0__inv_8_0/ZN VDDd VSSd gf180mcu_fd_sc_mcu9t5v0__inv_20_2/I
+ VDDd VSSd gf180mcu_fd_sc_mcu9t5v0__inv_12
.ends

